US09029359B2
(N-(1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-yl)-2-(phenylamino)acetamide
To a solution of 2-(phenylamino)acetic acid (37 mg, 0.25 mmol), EDCI (53 mg, 0.275 mmol), and HOBt (37 mg, 0.275 mmol) in DMF (1 mL) was DIEA (1.7 mL, 1.3 mg, 1.0 mmol) and 1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-amine (54 mg, 0.25 mmol). The solution was stirred at rt for several hours, diluted with water and EtOAc (1:1, 10 mL). The organic phase was separated, washed with brine, dried (Na2SO4) and concentrated in vacuo to afford a residue which was purified by reverse phase chromatography C 18 column and 10% acetonitrile/water containing 0.1% TFA to afford example 2. 1H NMR (400 MHz, DMSO-d6) δ 12.67 (s, 1H), 8.35 (s, 1H), 8.06 (d, J=6.8 Hz, 1H), 7.44 (s, 1H), 7.03˜7.70 (m, 3H), 6.52˜6.58 (m, 3H), 4.37 (d, J=12.7 Hz, 1H), 4.25 (d, J=12.2 Hz, 1H), 3.84 (s, 1H), 3.60 (m, 2H), 3.46 (m, 1H), 3.36 (m 1H), 1.87 (m, 2H), 1.61 (m, 2H). EIMS (m/z): calcd. for C19H22N6O (M++1) 351.2. found 351.2.

reactant | 2-(phenylamino)acetic acid | 0.25 mmol, 37 mg | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | EDCI | 0.275 mmol, 53 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.275 mmol, 37 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.0 mmol, 1.7 mL, 1.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-amine | 0.25 mmol, 54 mg | N1=CN=C(C2=C1NC=C2)N2CC(CCC2)N | C11H15N5
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-(1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-yl)-2-(phenylamino)acetamide | N1=CN=C(C2=C1NC=C2)N2CC(CCC2)NC(CNC2=CC=CC=C2)=O | C19H22N6O
